US07772226B2
A mixture consisting of 580 mg of t-butyl N-[1-[7-(2-butynyl)-2,6-dichloro-7H-purin-8-yl]piperidin-3-yl]-N-methylcarbamate, 315 mg of sodium acetate and 6 ml of dimethyl sulfoxide was stirred in an oil bath at 120° C. for 7 hours. The reaction solution was partitioned between ethyl acetate and water, and the organic layer was washed with water and then with saturated brine. The organic layer was dried over anhydrous magnesium sulfate, was filtered through a small amount of silica gel. The filtrate was concentrated, and the residue was crystallized with ethyl acetate-hexane to give 420 mg of t-butyl N-[1-[7-(2-butynyl)-2-chloro-6-oxo-6,7-dihydro-1H-purin-8-yl]piperidin-3-yl]-N-methylcarbamate. A mixture consisting of an 100 mg aliquot of the compound obtained above, 0.17 ml of methyl iodide, 48 mg of anhydrous potassium carbonate and 0.5 ml of N,N-dimethylformamide was stirred at room temperature for 4 hours. The reaction solution was partitioned between ethyl acetate and water, and the organic layer was washed with water and then with saturated brine. Then, the organic layer was concentrated, and the residue was purified by silica gel column chromatography using 50% ethyl acetate/hexane to give 104 mg of the title compound.

reactant | t-butyl N-[1-[7-(2-butynyl)-2,6-dichloro-7H-purin-8-yl]piperidin-3-yl]-N-methylcarbamate | 580 mg | C(C#CC)N1C(=NC2=NC(=NC(=C12)Cl)Cl)N1CC(CCC1)N(C(OC(C)(C)C)=O)C | C20H26Cl2N6O2
reactant | sodium acetate | 315 mg | C(C)(=O)[O-].[Na+]
solvent | dimethyl sulfoxide | 6 ml | CS(=O)C | C2H6OS
product | t-butyl N-[1-[7-(2-butynyl)-2-chloro-6-oxo-6,7-dihydro-1H-purin-8-yl]piperidin-3-yl]-N-methylcarbamate | 420 mg | C(C#CC)N1C(=NC=2N=C(NC(C12)=O)Cl)N1CC(CCC1)N(C(OC(C)(C)C)=O)C | C20H27ClN6O3
